US08809538B2
Methyl 5-(tert-butoxycarbonylamino)-4-cyano-3-methylthiophene-2-carboxylate
Methyl 5-amino-4-cyano-3-methylthiophene-2-carboxylate (0.790 g), N,N-diisopropylethylamine (1.40 mL), 4-dimethylaminopyridine (0.049 g) and di-tert-butyl dicarbonate (1.318 g) were suspended in N,N-dimethylformamide (10 mL) and heated at 60° C. for 1 hr. The reaction mixture was cooled to room temperature and partitioned between saturated aqueous ammonium chloride solution and ethyl acetate. The organics were washed with sodium bicarbonate aqueous solution and brine. The organics were then dried over magnesium sulfate, filtered and concentrated under reduced pressure and to afford the crude material, which was purified by flash column chromatography (eluant: 8:2 dichloromethane/hexane) to furnish the title compound (0.840 g) having the following physical properties.

reactant | Methyl 5-amino-4-cyano-3-methylthiophene-2-carboxylate | 0.790 g | NC1=C(C(=C(S1)C(=O)OC)C)C#N | C8H8N2O2S
reactant | N,N-diisopropylethylamine | 1.40 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | di-tert-butyl dicarbonate | 1.318 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
catalyst | 4-dimethylaminopyridine | 0.049 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | Methyl 5-(tert-butoxycarbonylamino)-4-cyano-3-methylthiophene-2-carboxylate | 0.840 g | C(C)(C)(C)OC(=O)NC1=C(C(=C(S1)C(=O)OC)C)C#N | C13H16N2O4S
